US07763639B2
1-[2-FLUORO-3-(METHYLSULFONYL)PHENYL]-4-PROPYLPIPERAZINE
Preparation according to Example 1: 1-[2-fluoro-3-(methylsulfonyl)phenyl]piperazine (0.13 g, 0.52 mmol), acetonitrile (4 ml), potassium carbonate (014 g, 1.1 mmol) and 1-iodopropane (0.05 ml, 0.55 mmol). Yield: 0.1 g (64%). The amine was converted to the hydrochloric acid salt and recrystallized from ethanol/diethyl ether: M.p. 241-243° C. MS m/z (relative intensity, 70 eV) 300 (M+, 18), 272 (14), 271 (bp), 228 (11), 70 (49).

reactant | 1-[2-fluoro-3-(methylsulfonyl)phenyl]piperazine | 0.52 mmol, 0.13 g | FC1=C(C=CC=C1S(=O)(=O)C)N1CCNCC1 | C11H15FN2O2S
reactant | potassium carbonate | 1.1 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodopropane | 0.55 mmol, 0.05 ml | ICCC | C3H7I
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | 1-[2-FLUORO-3-(METHYLSULFONYL)PHENYL]-4-PROPYLPIPERAZINE | FC1=C(C=CC=C1S(=O)(=O)C)N1CCN(CC1)CCC | C14H21FN2O2S
